US08754054B2
To a solution of (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid (60 mg, 0.09 mmol) in THF (2 mL) was added polystyrene-carbodiimide (156 mg, 0.18 mmol), 1-hydroxybenzotriazole hydrate (24 mg, 0.18 mmol) and cyclohexylamine (10 mg, 0.13 mmol). The reaction mixture was stirred at room temperature under nitrogen for 4 h. The reaction was filtered through a micro filter and concentrated. The crude material was purified by preparative HPLC (10:90 acetonitrile/water to 60:40 acetonitrile/water with 0.05% TFA over 10 min, then isocratic) to afford (6R,6aS,14aR)—N-cyclohexyl-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxamide as a mixture of diastereomers (14 mg, 20%) and as a dark red solid: 1H NMR (500 MHz, CD3OD) δ 8.10 (s, 1H), 6.59 (s, 1H), 6.15 (s, 0.3H), 6.00 (s, 0.7H), 5.19 (s, 0.3H), 4.95 (s, 0.7H), 4.89 (br s, 1H), 3.95-3.90 (m, 1H), 3.75 (s, 3H), 3.74-3.71 (m, 0.7H), 3.70-3.68 (m, 0.3H), 3.67-3.64 (m, 1H), 3.58 (s, 3H), 3.53 (s, 1H), 3.50 (s, 2H), 3.48-3.35 (m, 5H), 3.27-3.20 (m, 1H), 3.09-3.02 (m, 1H), 2.22 (s, 3H), 1.93-1.81 (m, 2H), 1.80-1.69 (m, 2H), 1.66-1.57 (m, 1H), 1.40-1.33 (m, 2H), 1.27 (d, J=6.5 Hz, 2H), 1.22 (d, J=6.5 Hz, 1H), 1.19-1.15 (m, 2H); MS (ESI+) m/z 765 (M+H); HPLC 95.4% (AUC), tR 13.79 min.

reactant | (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid | 0.09 mmol, 60 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)O | C33H33NO15
reactant | 1-hydroxybenzotriazole hydrate | 0.18 mmol, 24 mg | O.ON1N=NC2=C1C=CC=C2
reactant | cyclohexylamine | 0.13 mmol, 10 mg | C1(CCCCC1)N | C6H13N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (6R,6aS,14aR)—N-cyclohexyl-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxamide | C1(CCCCC1)NC(=O)C=1C(=CC2=C([C@@]3(C(C4=CC=5C(C(=CC(C5C(=C4C([C@@]3([C@@H](C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C1O)C | C39H44N2O14
